US08022062B2
(±)-2-(1-Aminoethyl)-5-methylthiophene:
Add lithium aluminum hydride (29 mg, 0.72 mmol) to a solution of (±)-2-(1-azidoethyl)-5-methylthiophene (100 mg, 0.59 mmol) in anhydrous THF (5 mL). Stir at room temperature overnight. Work-up the mixture with EtOAc and water. Filter the mixture over Celite®. Separate and wash the organic phase with brine. Dry over Na2SO4, filter and concentrate in vacuo. Purify by SCX chromatography. Rinse with DCM/methanol (1:1), load the crude mixture in methanol and elute sequentially with methanol and 1N ammonia in methanol to obtain the title compound as an oil (80 mg, 95%). GC-MS m/z 141 (M+).

reactant | lithium aluminum hydride | 0.72 mmol, 29 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (±)-2-(1-azidoethyl)-5-methylthiophene | 0.59 mmol, 100 mg | N(=[N+]=[N-])C(C)C=1SC(=CC1)C | C7H9N3S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-2-(1-Aminoethyl)-5-methylthiophene | 80 mg, 95% | NC(C)C=1SC(=CC1)C | C7H11NS
